US04228168
2 ml of methanol, 2 ml of conc. hydrochloric acid and 10 ml of 10% hydrochloric acid were added to 0.7 g of 1,2,3,4-tetrahydro-1-[3,3-bis(ethoxycarbonyl)propyl]-2-ethyl-β-carboline, and the mixture was stirred at 120° C. for 7 hours. After the reaction was completed, the mixture was evaporated under reduced pressure to remove solvent. The residue thus obtained was recrystallized from a mixture of ethanol and ether. 0.49 g of 1,2,3,4-tetrahydro-1-(3-carboxypropyl)-2-ethyl-β-carboline hydrochloride was obtained. M.p. 194°-197° C. (decomp.) Yield: 73.5%

reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | 1,2,3,4-tetrahydro-1-[3,3-bis(ethoxycarbonyl)propyl]-2-ethyl-β-carboline | 0.7 g | C(C)OC(=O)C(CCC1N(CCC=2C3=CC=CC=C3NC12)CC)C(=O)OCC | C22H30N2O4
solvent | methanol | 2 ml | CO | CH4O
product | 1,2,3,4-tetrahydro-1-(3-carboxypropyl)-2-ethyl-β-carboline hydrochloride | 0.49 g, Yield: 73.5% | Cl.C(=O)(O)CCCC1N(CCC=2C3=CC=CC=C3NC12)CC | InChI=1S/C17H22N2O2.ClH/c1-2-19-11-10-13-12-6-3-4-7-14(12)18-17(13)15(19)8-5-9-16(20)21;/h3-4,6-7,15,18H,2,5,8-11H2,1H3,(H,20,21);1H
